US08084620B2
Step 1 A solution of 2,3-dihydro-1H-inden-1-one (1 g, 7.57 mmol) in DCM (10 mL) was treated with methanesulfonic acid (10 mL) and cooled to 0° C. Sodium azide (0.984 g, 15.13 mmol) was added and the mixture was stirred at 0° C. for 2 h, then at rt overnight. The mixture was made basic with 20% aqueous sodium hydroxide and extracted with DCM. The organic phase was washed with water, dried and concentrated. The residue was purified by column chromatography (eluting with hexane-EtOAc) to provide 3,4-dihydroquinolin-2(1H)-one as a white solid (655 mg, 60%). 1H NMR (400 MHz, methanol-d4) δ 7.08-7.19 (2H, m), 6.92-6.99 (1H, m), 6.85 (1H, d, J=7.9 Hz), 5.47 (1H, s), 2.92 (2H, t, J=7.6 Hz), 2.49-2.58 (2H, m). Mass spectrum m/z 148.1 (M+H)+. Also obtained was 3,4-dihydroisoquinolin-1(2H)-one as a colorless oil (162 mg, 15%). 1H NMR (400 MHz, methanol-d4) δ 7.93 (1H, dd, J=7.8, 1.0 Hz), 7.44-7.52 (1H, m), 7.35 (1H, td, J=7.6, 1.2 Hz), 7.29 (1H, d, J=7.7 Hz), 3.50 (2H, t, J=6.6 Hz), 2.98 (2H, t, J=6.7 Hz). Mass spectrum m/z 148.1 (M+H)+.

reactant | 2,3-dihydro-1H-inden-1-one | 7.57 mmol, 1 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | methanesulfonic acid | 10 mL | CS(=O)(=O)O | CH4O3S
reactant | Sodium azide | 15.13 mmol, 0.984 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3,4-dihydroquinolin-2(1H)-one | 655 mg, 60% | N1C(CCC2=CC=CC=C12)=O | C9H9NO
